US05011962
About 1 ml of a 25% solution of phosphonitrile chloride in methylene chloride is added to a mixture containing 278 g (1.5 mol) of 1,3-divinyl-1,1,3,3-tetramethyldisiloxane and 85 g (0.5 mol) of tetrachlorosilane. After the mixture has been stirred at room temperature for 116 hours, 1.1 ml of tri-n-butylamine are added, and the reaction mixture stirred for an additional 30 minutes and then subsequently fractionally distilled. At 45° to 52° C. and at 3 mbar, 85 g of 1,5-divinyl-1,1,5,5-tetramethyl-3,3-dichlorotrisiloxane are obtained, but no 1,5-divinyl-1,1,5,5-tetramethyl-3-chloro-3-vinyldimethylsiloxytrisiloxane.

reactant | 1,3-divinyl-1,1,3,3-tetramethyldisiloxane | 1.5 mol, 278 g | C(=C)[Si](O[Si](C)(C)C=C)(C)C | C8H18OSi2
reactant | tetrachlorosilane | 0.5 mol, 85 g | Cl[Si](Cl)(Cl)Cl | Cl4Si
reactant | tri-n-butylamine | 1.1 ml | C(CCC)N(CCCC)CCCC | C12H27N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1,5-divinyl-1,1,5,5-tetramethyl-3,3-dichlorotrisiloxane | 85 g | C(=C)[Si](O[Si](O[Si](C)(C)C=C)(Cl)Cl)(C)C | C8H18Cl2O2Si3
